US06384072B1
To a solution of a mixture of methyl 1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-7H-benzocycloheptene-6-carboxylate and methyl 1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-5H-benzocycloheptene-6-carboxylate (1.50 g) in EtOAc (60 ml) was added 10% Pd-C (wet) (300 mg). The mixture was stirred under hydrogen atmosphere at room temperature for 7 hours. After removal of Pd-C by filtration, the filtrate was evaporated to give methyl 1-(tert-butyldiphenyl-silyloxy)-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate (1.51 g) as an oil.

reactant | methyl 1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-7H-benzocycloheptene-6-carboxylate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=CC2=C1CCCC(=C2)C(=O)OC | C29H32O3Si
reactant | methyl 1-(tert-butyldiphenylsilyloxy)-8,9-dihydro-5H-benzocycloheptene-6-carboxylate | 1.50 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=CC2=C1CCC=C(C2)C(=O)OC | C29H32O3Si
solvent | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
catalyst | Pd-C | 300 mg | [Pd] | Pd
product | methyl 1-(tert-butyldiphenyl-silyloxy)-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate | 1.51 g | C(C)(C)(C)[Si](OC1=CC=CC2=C1CCCC(C2)C(=O)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | C29H34O3Si
